US09238644B2
(a) tert-Butyl 4-(4-(4-(2-(1-amino-1-oxopropan-2-yl)phenethyl)-5-chloropyrimidin-2-ylamino)-1H-pyrazol-1-yl)piperidine-1-carboxylate (A32)
A stirred solution of 2-(2-(2-(2,5-Dichloropyrimidin-4-yl)ethyl)phenyl)propanamide (A30) (0.120 g, 0.370 mmol), tert-butyl 4-(4-amino-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.177 g, 0.666 mmol) in n-butanol (3 mL) and glacial acetic acid (0.004 mL, 0.074 mmol) was stirred at 150° C. in the microwave for 30 minutes. After cooling, the solvent was removed to afford a crude purple oil which was purified by silica gel column chromatography (Combiflash Rf, 0-30% MeOH in DCM) to give the title compound A32 as a red oil (0.090 g, 44% yield). LCMS-C: rt 5.44 min; m/z 554 [M+H]+.

reactant | 2-(2-(2-(2,5-Dichloropyrimidin-4-yl)ethyl)phenyl)propanamide | 0.370 mmol, 0.120 g | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C(C(=O)N)C)Cl | C15H15Cl2N3O
reactant | tert-butyl 4-(4-amino-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.666 mmol, 0.177 g | NC=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H22N4O2
reactant | acetic acid | 0.074 mmol, 0.004 mL | C(C)(=O)O | C2H4O2
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | tert-Butyl 4-(4-(4-(2-(1-amino-1-oxopropan-2-yl)phenethyl)-5-chloropyrimidin-2-ylamino)-1H-pyrazol-1-yl)piperidine-1-carboxylate | NC(C(C)C1=C(CCC2=NC(=NC=C2Cl)NC=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1)=O | C28H36ClN7O3
